US07371869B2
To a solution of amino-(3,5-dimethoxy-phenyl)-acetic acid hydrochloride salt (1.5 g, 6.05 mmol) in p-dioxane (20 mL) at 0° C. was added a solution of sodium hydroxide (0.58 g, 14.5 mmol) in water (10 mL). To the resulting solution was added di-tert-butyidicarbonate (1.6 g, 7.26 mmol). After stirring at 0° C. for 30 minutes the reaction was warmed to ambient temperature and left to stir for an additional 1 hour. The mixture was concentrated to remove p-dioxane and acidified to pH≈2 with a cold dilute aqueous hydrochloric acid. The mixture was extracted with ethyl acetate (3×). The organic layers were combined, dried over sodium sulfate and concentrated to give tert-butoxycarbonylamino-(3,5-dimethoxy-phenyl)-acetic acid as a yellow gum (1.6 g, 85%).

reactant | amino-(3,5-dimethoxy-phenyl)-acetic acid hydrochloride salt | 6.05 mmol, 1.5 g | Cl.NC(C(=O)O)C1=CC(=CC(=C1)OC)OC
reactant | sodium hydroxide | 14.5 mmol, 0.58 g | [OH-].[Na+]
reactant | di-tert-butyidicarbonate | 7.26 mmol, 1.6 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | p-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
product | tert-butoxycarbonylamino-(3,5-dimethoxy-phenyl)-acetic acid | 1.6 g, 85% | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=CC(=CC(=C1)OC)OC | C15H21NO6
